US04963590
3-(3,4-Dihydroxy-5-nitrophenyl)-1-(2-hydroxyphenyl)prop-2-en-1-one
The procedure described in Example 8 was repeated using 1.0 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 0.74 g of 2'-hydroxyacetophenone. Yield 0.2 g (12%), m.p. 231°-234° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.0 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 2'-hydroxyacetophenone | 0.74 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
product | 3-(3,4-Dihydroxy-5-nitrophenyl)-1-(2-hydroxyphenyl)prop-2-en-1-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=CC(=O)C1=C(C=CC=C1)O | C15H11NO6
